US06452041B1
(R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-pentanoic Acid
A solution of (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-2-pentenoic acid (3.8 g, 10 mmol) and 1,1′-bis[(2S,4S)-2,4-diethylphosphetano]ferrocene-(1,5-cyclooctadiene)-rhodium (I) tetrafluoroborate (7.8 mg, 10 μmol) in methanol (10 ml) was stirred at 20-25° C. for 24 hours, under hydrogen (60 p.s.i.). The mixture was then concentrated in vacuo to leave the title compound as a yellow oil (3.8 g, 98% conversion, enantiomeric excess=95%, 95% pure by NMR).

reactant | (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-2-pentenoic acid | 10 mmol, 3.8 g | C(C)(C)(C)OC(C/C(/C(=O)O)=C\CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)=O | C24H28O4
solvent | methanol | 10 ml | CO | CH4O
product | (R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-pentanoic Acid | 3.8 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1=CC(=C(C=C1)C1=CC=CC=C1)C)=O | C24H30O4
